US04692553
5.3 g of 2-butyryl-5-(3-nitro-4-methoxyphenyl)cyclohexane-1,3-dione in 300 ml of tetrahydrofuran were hydrogenated in the presence of 3 g of Pd/carbon (10%) under atmospheric pressure at 25° C. After 0.9 l of hydrogen had been absorbed, the mixture was dried over sodium sulfate and filtered, 1.3 g of sodium bicarbonate were added and the mixture was reacted with 1.2 g of acetyl chloride. After the mixture had been stirred for 16 hours, it was filtered and evaporated down. The remaining oil was brought to crystallization with diethyl ether, and the crystals were filtered off under suction. 3 g (55% yield) of 5-(3-acetylamino-4-methoxyphenyl)-2-butyryl-3-hydroxycyclohex-2-en-1-one of melting point 102°-106° C. were obtained.

reactant | 2-butyryl-5-(3-nitro-4-methoxyphenyl)cyclohexane-1,3-dione | 5.3 g | C(CCC)(=O)C1C(CC(CC1=O)C1=CC(=C(C=C1)OC)[N+](=O)[O-])=O | C17H19NO6
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | Pd carbon | 3 g | [Pd].[C]
product | 5-(3-acetylamino-4-methoxyphenyl)-2-butyryl-3-hydroxycyclohex-2-en-1-one | 3 g, 55% yield | C(C)(=O)NC=1C=C(C=CC1OC)C1CC(=C(C(C1)=O)C(CCC)=O)O | C19H23NO5
